US04727081
N-Cyclohexyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]1,3,4-thiadiazole-2,5-diamine
The compound is prepared by a method analogous to that of Example 40 from N-cyclohexyl-2-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]aminothioxomethyl]-hydrazine carboxamide and phosphorus oxychloride. The analytical values are summarized in Table III.

reactant | N-cyclohexyl-2-[[3-[3-(1-piperidinylmethyl)phenoxy]propyl]aminothioxomethyl]-hydrazine carboxamide | C1(CCCCC1)NC(=O)NNC(=S)NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C23H37N5O2S
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | N-Cyclohexyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]1,3,4-thiadiazole-2,5-diamine | C1(CCCCC1)NC=1SC(=NN1)NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C23H35N5OS
